US08404684B2
Step 1) N-[4-(2-Amino-4-methyl-thiazol-5-yl)-6-methyl-pyrimidin-2-yl]-N,N′,N′-trimethyl-ethane-1,2-diamine
N,N,N′-Trimethyl-ethane-1,2-diamine (0.62 g, 6.16 mmol) is added to a stirred solution of 5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine (Intermediate AD, 0.33 g, 1.23 mmol) in NMP (15 ml). The reaction is heated at 70° C. for 18 hours then the solvent is removed in vacuo. The residue is purified by reverse phase chromatography (C18 Jones Flashmaster™ chromatographic system, gradient elution conditions MeCN/H2O) to give the titled product.

reactant | N,N,N′-Trimethyl-ethane-1,2-diamine | 6.16 mmol, 0.62 g | CN(CCNC)C | C5H14N2
reactant | 5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine | 1.23 mmol, 0.33 g | CS(=O)C1=NC(=CC(=N1)C1=C(N=C(S1)N)C)C | C10H12N4OS2
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | N-[4-(2-Amino-4-methyl-thiazol-5-yl)-6-methyl-pyrimidin-2-yl]-N,N′,N′-trimethyl-ethane-1,2-diamine | NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)N(CCN(C)C)C | C14H22N6S
